US05760032
4-(3-(2-Chlorobenzoyl)-5-ethylthiophen-2-yl)-3-hydroxymethyl-5-methyl[1,2,4]triazole (1.08 g) was dissolved in chloroform (50 ml). Triethylamine (0.34 g) and 3,4-dichlorobenzoyl chloride (0.69 g) were added, and the mixture was stirred at room temperature for 2 hours. Then, water was added to the solution for washing, and the mixture was dried over magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel column chromatography (developing solvent:ethyl acetate-methanol) and recrystallized from ethyl acetate-diisopropyl ether to give 1.10 g of (4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-ylmethyl)-3,4-dichlorobenzoate.

reactant | 4-(3-(2-Chlorobenzoyl)-5-ethylthiophen-2-yl)-3-hydroxymethyl-5-methyl[1,2,4]triazole | 1.08 g | ClC1=C(C(=O)C2=C(SC(=C2)CC)N2C(=NN=C2C)CO)C=CC=C1 | C17H16ClN3O2S
reactant | Triethylamine | 0.34 g | C(C)N(CC)CC | C6H15N
reactant | 3,4-dichlorobenzoyl chloride | 0.69 g | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
reactant | water | O | H2O
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | (4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-ylmethyl)-3,4-dichlorobenzoate | 1.10 g | ClC1=C(C(=O)C2=C(SC(=C2)CC)N2C(=NN=C2C)COC(C2=CC(=C(C=C2)Cl)Cl)=O)C=CC=C1 | C24H18Cl3N3O3S
